US09085555B2
C. Lithium (1-acetyl-imidazo[1,5-a]pyridin-3-yl)-acetate
To a solution of (1-acetyl-imidazo[1,5-a]pyridin-3-yl)-acetic acid methyl ester (1.12 g, 4.82 mmol) in THF (15 mL) and water (7.5 mL) was added LiOH.H2O (202 mg, 4.82 mmol). The reaction was stirred at RT for 5.5 h until completion of the reaction. The mixture was concentrated under reduced pressure and the material thus obtained was used in the next step without further purification: MS (UPLC/MS): 219.2 [M+H]+, 241.2 [M+Na]+, 217.2 [M−H]−; tR (HPLC conditions f): 1.03 min.

reactant | (1-acetyl-imidazo[1,5-a]pyridin-3-yl)-acetic acid methyl ester | 4.82 mmol, 1.12 g | COC(CC1=NC(=C2N1C=CC=C2)C(C)=O)=O | C12H12N2O3
reactant | LiOH.H2O | 4.82 mmol, 202 mg | O[Li].O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 7.5 mL | O | H2O
product | Lithium (1-acetyl-imidazo[1,5-a]pyridin-3-yl)-acetate | C(C)(=O)C=1N=C(N2C1C=CC=C2)CC(=O)[O-].[Li+] | InChI=1S/C11H10N2O3.Li/c1-7(14)11-8-4-2-3-5-13(8)9(12-11)6-10(15)16;/h2-5H,6H2,1H3,(H,15,16);/q;+1/p-1
